US08222249B2
To the EtOAc solution (30 mL) of 4-[2-(4-nitro-phenyl)-vinyl]-pyridine (160 mg, 0.71 mmol) was added palladium on carbon (0.1 g, 50% wet). The suspension was hydrogenated at 50 psi of hydrogen for 2 hours. The mixture was filtered over a celite pad. The filtrate was concentrate to give 4-(2-pyridin-4-yl-ethyl)-phenylamine as a yellow solid (140 mg, 100%).

reactant | 4-[2-(4-nitro-phenyl)-vinyl]-pyridine | 0.71 mmol, 160 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=NC=C1 | C13H10N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-(2-pyridin-4-yl-ethyl)-phenylamine | 140 mg, 100% | N1=CC=C(C=C1)CCC1=CC=C(C=C1)N | C13H14N2
